US04680297
6-Phenyl-2,3,4,6-tetrahydro-pyrano[3,2-c][1,8]naphthyridin-5-one
A suspension of 4-hydroxy-3-(3-hydroxypropyl)1-phenyl-1,8-naphthyridin-2(1H)-one (5.67 g.) in 47% HBr (50 ml.) was stirred in an atmosphere of nitrogen and was heated to 90° C. for 5 hrs. After cooling, the product was poured into water, and the pH was adjusted to 4.5 with potassium acetate. Chromatographic purification of the product on silica gel eluting with CH2Cl2 : 5% ether and subsequent recrystallization of the product from the relevant fractions yielded the product, m.p. 253°-255° C.

reactant | 4-hydroxy-3-(3-hydroxypropyl)1-phenyl-1,8-naphthyridin-2(1H)-one | 5.67 g | OC1=C(C(N(C2=NC=CC=C12)C1=CC=CC=C1)=O)CCCO | C17H16N2O3
reactant | water | O | H2O
reactant | potassium acetate | C(C)(=O)[O-].[K+]
solvent | HBr | 50 ml | Br | BrH
product | 6-Phenyl-2,3,4,6-tetrahydro-pyrano[3,2-c][1,8]naphthyridin-5-one | C1(=CC=CC=C1)N1C(C2=C(C=3C=CC=NC13)OCCC2)=O | C17H14N2O2
